US09371320B2
D) methyl 4-(1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxylate
A solution of 1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl trifluoromethanesulfonate (138 mg), methyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-carboxylate (152 mg), tetrakis(triphenylphosphine)palladium(0) (44 mg) and 2M aqueous sodium carbonate solution (0.94 mL) in DME (10 mL) was stirred under nitrogen atmosphere at 100° C. for 2 hr stirred. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (132 mg).

reactant | 1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl trifluoromethanesulfonate | 138 mg | FC(S(=O)(=O)OC1=NN(C2=C1C(=NC=C2)OC)C2CCCC2)(F)F | C13H14F3N3O4S
reactant | methyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-carboxylate | 152 mg | CC1(OB(OC1(C)C)C=1C=C(SC1)C(=O)OC)C | C12H17BO4S
reactant | sodium carbonate | 2M, 0.94 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | DME | 10 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 44 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4-(1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxylate | 132 mg | C1(CCCC1)N1N=C(C=2C(=NC=CC21)OC)C=2C=C(SC2)C(=O)OC | C18H19N3O3S
